US08293768B2
Synthesis of ethyl 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 3-(bromomethyl)-5-methylisoxazole to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 78% yield: MS (ES+) m/z 351.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 3-(bromomethyl)-5-methylisoxazole | BrCC1=NOC(=C1)C | C5H6BrNO
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 78% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1=NOC(=C1)C)=O | C15H18N4O4S
